US04243819
A solution of α-bromoisovaleric acid (8.17 mmole) in methanol is titrated to the phenophthalein end point using sodium methoxide. The solvent is removed by rotoevaporation and then there is added potassium carbonate (1.69 g), 2-fluoro-4-methylaniline (16.38 mmole) and 3 ml HMPT. The reaction is heated at 60° for about 5 hours and then worked up with 5% sodium hydroxide/ether and washed with water (3×). The basic layer is acidified and extracted with ether, washed with water and brine, dried over sodium sulfate and rotoevaporated to yield α-(2-fluoro-4-methylphenylamino)isovaleric acid. (2-Fluoro-4-methylaniline is prepared from 3-fluoro-4-nitrotoluene in a Parr bottle using platinum oxide and hydrogen in ethanol.)

reactant | 3-fluoro-4-nitrotoluene | FC=1C=C(C=CC1[N+](=O)[O-])C | C7H6FNO2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | platinum oxide | [Pt]=O
product | 2-Fluoro-4-methylaniline | FC1=C(N)C=CC(=C1)C | C7H8FN
